US08212041B2
2) Preparation of N,N-dimethyl-3-(4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)pyridin-3-yl)prop-2-yn-1-amine
Tetrakis(triphenylphosphine)palladium(0) (14.4 mg, 12.5 μmol) was added to a suspension of 3-((3-iodopyridin-4-yloxy)methyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine (107 mg, 249 μmol) and 1-dimethylamino-2-propyne (80.4 μl, 748 μmol) in THF (0.6 mL) and triethylamine (591 μl, 4238 μmol) at RT. Copper(i) iodide, 99.999% (4.75 mg, 24.9 μmol) was added and the reaction mixture was stirred at 75° C. (oil bath) for ˜75 min. The reaction mixture was cooled at RT, concentrated in vacuo. Purification by MPLC (ISCO, CH2Cl2/MeOH: 100/0 to 90/10) afforded the title compound. MS m/z=385.1 [M+H]+. Calc'd for C22H20N6O: 384.44

reactant | 3-((3-iodopyridin-4-yloxy)methyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine | 249 μmol, 107 mg | IC=1C=NC=CC1OCC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C17H12IN5O
reactant | 1-dimethylamino-2-propyne | 748 μmol, 80.4 μl | CN(CC#C)C | C5H9N
reactant | triethylamine | 4238 μmol, 591 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 12.5 μmol, 14.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Copper(i) iodide | [Cu]I
product | N,N-dimethyl-3-(4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)pyridin-3-yl)prop-2-yn-1-amine | CN(CC#CC=1C=NC=CC1OCC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2)C | C22H20N6O
